US06592884B2
Synthesis of 5-methyl-4-(1-pyrrolidinyl)-3(2H)-furanone (MPF)
From 4-Methyl-dihydro-furan-2,3-dione and pyrrolidium acetate in ethanol. A solution of 4-methyl-dihydro-furan-2,3-dione (100 mmol, prepared according to Fleck et al., Helv. Chim. Acta 1950, 33, 130), acetic acid (100 mmol) and pyrrolidine (100 mmol) in ethanol (225 mL) was refluxed for 2,5 h. After cooling down to room temperature, the solvent was removed in vacuo and the residue was taken up in water (200 mL). The solution was then extracted with diethyl ether (5×100 ml), the combined organic layers were dried over sodium sulphate and then freed from solvent in vacuo. The residual oil was dissolved in pentane/diethyl ether (3/2, v/v; 10 mL) and then applied onto a column (30×500 mm) filled with a slurry of aluminium oxide (basic activity III-IV, Merck, Darmstadt, Germany) in pentane. Chromatography was performed using pentane (300 mL; fraction A), pentane/diethyl ether (9/1, v/v; 400 mL; fraction B), pentane/diethyl ether (80/20, v/v; 400 mL; fraction C), pentane/diethyl ether (70/30, v/v; 400 mL; fraction D), pentane/diethyl ether (60/40, v/v; 400 mL; fraction E), pentane/diethyl ether (50/50, v/v; 400 mL; fraction F). Fraction F containing 2(5H)-MPF (2.25 g, 14% in yield) was collected and freed from solvent under vacuo affording the target compound as a colorless oil.

reactant | 4-Methyl-dihydro-furan-2,3-dione | CC1C(C(OC1)=O)=O | C5H6O3
reactant | acetate | C(C)(=O)[O-]
reactant | 4-methyl-dihydro-furan-2,3-dione | 100 mmol | CC1C(C(OC1)=O)=O | C5H6O3
reactant | acetic acid | 100 mmol | C(C)(=O)O | C2H4O2
reactant | pyrrolidine | 100 mmol | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 225 mL | C(C)O | C2H6O
product | 5-methyl-4-(1-pyrrolidinyl)-3(2H)-furanone | CC1=C(C(CO1)=O)N1CCCC1 | C9H13NO2
